US07238724B2
methyl (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-((trimethylsilyl)ethynyl)-L-prolinate
To a stirred solution of methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate (1.2 g, 5.32 mmol) in dichloromethane (30 mL ) at ambient temperature under nitrogen was added 4-dimethylamino pyridine (0.65 g, 5.32 mmol), 4-methylmorpholine (0.9 mL, 7.98 mmol), 1-(3-(dimethylamino)propyl)-3-ethyl carbodiimide hydrochloride (1.22 g, 6.39 mmol), and (2S)-((tert-butoxycarbonyl)amino)(cyclopentyl)acetic acid dicyclohexylamine salt (1.55 g, 6.39 mmol). The reaction mixture was stirred at room temperature for 16 hours, diluted with ethyl acetate and washed with 1 M HCl. The aqueous layer was further extracted with ethyl acetate (2×) and the combined ethyl acetate layers were dried (Na2SO4) and evaporated. The residue was purified by flash chromatography 30% ethyl acetate/hexane to provide the titled compound. MS (CI) m/e 451 (M+H)+.

reactant | methyl (5R)-5-((trimethylsilyl)ethynyl)-L-prolinate | 5.32 mmol, 1.2 g | C[Si](C)(C)C#C[C@H]1CC[C@H](N1)C(=O)OC | C11H19NO2Si
reactant | 4-methylmorpholine | 7.98 mmol, 0.9 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-(dimethylamino)propyl)-3-ethyl carbodiimide hydrochloride | 6.39 mmol, 1.22 g | Cl.CN(CCCN=C=NCC)C
reactant | (2S)-((tert-butoxycarbonyl)amino)(cyclopentyl)acetic acid dicyclohexylamine salt | 6.39 mmol, 1.55 g | C1(CCCCC1)NC1CCCCC1.C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1CCCC1
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 5.32 mmol, 0.65 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (5R)-1-{(2S)-2-((tert-butoxycarbonyl)amino)-2-cyclopentylethanoyl}-5-((trimethylsilyl)ethynyl)-L-prolinate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)OC)CC[C@@H]1C#C[Si](C)(C)C)C1CCCC1 | C23H38N2O5Si
